US07220744B2
(2-Isopropylsulfanyl-5-methanesulfonyl-phenyl)-[4-(3-phenyl-[1,2,4]thiadiazol-5-yl)-piperazin-1-yl]-methanone
Prepared in analogy to example 1 (b) from 2-isopropylsulfanyl-5-methanesulfonyl-benzoic acid (Example A22) and 3-phenyl-5-piperazino-1,2,4-thiadiazole. The crude material was purified by chromatography (SiO2, ethyl acetate/heptane) to yield the title compound as an off-white solid (yield 83%). MS (m/e): 503.1 (M+H+, 100%).

reactant | 2-isopropylsulfanyl-5-methanesulfonyl-benzoic acid | C(C)(C)SC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C11H14O4S2
reactant | 3-phenyl-5-piperazino-1,2,4-thiadiazole | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
product | (2-Isopropylsulfanyl-5-methanesulfonyl-phenyl)-[4-(3-phenyl-[1,2,4]thiadiazol-5-yl)-piperazin-1-yl]-methanone | yield 83% | C(C)(C)SC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C23H26N4O3S3
